Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Hyponatremia 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ history of irregular bowel movements, amenorrhea, outlet 
obstruction constipation, who presents with hyponatremia found 
on routine labs ordered by Endocrinologist.  

Patient reports drinking 150 ounces of water daily (~4.4 L). 
Patient notes that she has always drank more water than usual. 
Partially because she has issues with severe constipation and 
she feels that water helps with this. She denies any psychiatric 
history except anxiety for which she has not been treated, no 
history of eating disorders.
  
Patient otherwise reports feeling at her baseline. She has 
diarrhea alternating with constipation and sees ___ for EMG 
feedback therapy. No confusion, headaches, muscle weakness, 
nausea/vomiting, or seizures.  

Of note, patient was recently evaluated by Endocrinology for a 
history of low T3. However, Dr. ___ her to stop the 
Cytomel (T3 repletion), the pregnenolone and the DHEAs. Dr. 
___ not feel she had any clinical evidence of 
endocrinopathies, however planned to check a set of labs once 
patient had stopped above medications that had been prescribed 
by other providers.  

In the ED, initial vitals were: 97.0 64 ___ 100% RA  

Labs notable for: Na 120 -> Na 122. Urine Na <20, Cl <20, Osm 
65, Specific gravity: 1.002. TSH WNL, Cortisol 8.4. Prolactin 
(4.9 (normal ___, T3 71 (normal 80 - 200)   

Patient was given: No medications or fluids.  
 
Decision was made to admit for further correction of Na without 
overcorrection.

On the floor, patient endorses what is written above. Denies any 
complaints and was quite surprised she was asked to come to the 
ED.
 
Past Medical History:
BLOATING
CHRONIC CONSTIPATION
ABDOMINAL PAIN
HYPOTHYROIDISM 
ANXIETY

 
Social History:
___
Family History:
Mother - MS, osteopenia  
Father - obesity, pre diabete  
Brother - healthy  
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
===========================  
VS: 98.0 100 / 68 54 20 100% RA  
General: Alert, oriented, no acute distress, pleasant  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: bradycardic, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
Skin: no hypopigmentation. One hyperpigmented patch on left shin 
(chronic per patient).  
Joints: No swelling, erythema, tenderness  

DISCHARGE PHYSICAL EXAM:
============================
VS: 98.8 99/62 56 20 98RA
I/O: ___
GEN: Alert and oriented, reading in bed. In no acute distress
HEENT: Sclera anicteric, conjunctiva noninjected, PERRLA, EOM 
intact, visual fields intact, No LAD
PULM: Lungs CTA anteriorly and posteriorly, No wheezes, rales, 
rhonchi 
CV: Bradycardic, regular rhythm, S1 and S2 normal, no M/R/G
ABD: ND, NT, +BS, no organomegaly, no rebound or guarding 
EXT: warm and well perfused, 2+ pulses, no edema, clubbing, or 
cyanosis 
GU: Foley 
NEURO: A/Ox3, working memory intact. CNII-XII intact, ___ 
strength in b/l UE and b/l ___, grossly intact sensation, 2+ 
reflexes in b/l UE and b/l ___
 
Pertinent Results:
ADMISSION LABS:
___ 04:10PM BLOOD Creat-0.6 Na-120* K-3.9 Cl-84* HCO3-27 
AnGap-13
___ 09:50PM BLOOD Glucose-80 UreaN-9 Creat-0.9 Na-122* 
K-4.1 Cl-86* HCO3-26 AnGap-14
___ 09:50PM BLOOD Plt ___
___ 09:50PM BLOOD Neuts-47.4 ___ Monos-7.0 Eos-1.2 
Baso-1.0 AbsNeut-2.38 AbsLymp-2.18 AbsMono-0.35 AbsEos-0.06 
AbsBaso-0.05
___ 09:50PM BLOOD WBC-5.0 RBC-3.76* Hgb-11.6 Hct-34.1 
MCV-91 MCH-30.9 MCHC-34.0 RDW-11.5 RDWSD-38.6 Plt ___
___ 04:10PM BLOOD Prolact-4.9* TSH-0.76
___ 04:10PM BLOOD T3-71* Free T4-1.1
___ 04:10PM BLOOD Cortsol-8.4 25VitD-48
___ 10:06PM BLOOD Na-125*
___ 10:00PM URINE Color-Straw Appear-Clear Sp ___
___ 10:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:00PM URINE Osmolal-65

PERTINENT LABS:
___ 03:28AM BLOOD Na-131*
___ 06:58AM BLOOD Glucose-86 UreaN-9 Creat-0.7 Na-134 K-4.2 
Cl-97 HCO3-23 AnGap-18
___ 06:58AM BLOOD Calcium-9.2 Phos-5.0* Mg-2.1
___ 03:28AM BLOOD Osmolal-266*
___ 09:16PM BLOOD Na-133
___ 09:00AM URINE Hours-RANDOM Na-27
___ 11:30AM URINE Hours-RANDOM Na-48
___ 02:46PM URINE Hours-RANDOM Na-38
___ 09:08PM URINE Osmolal-428

DISCHARGE LABS:
___ 10:15AM BLOOD Glucose-74 UreaN-10 Creat-0.7 Na-133 
K-3.9 Cl-95* HCO3-24 AnGap-18
___ 10:15AM BLOOD Calcium-9.3 Phos-3.6 Mg-1.9
___ 02:06AM BLOOD Na-129*

MICRO:
___ UCx: 3+ mixed bacteria, consistent with skin and/or 
genital contamination
 
Brief Hospital Course:
___ year old woman with history notable for amenorrhea and outlet 
obstruction constipation who was admitted with hyponatremia due 
to polydipsia, complicated by rapid overcorrection from 122 to 
134 under 12 hours. She was treated with DDAVP and IV D5W to 
slow the rate of correction and avoid neurological 
complications.

# Hyponatremia due to primary polydipsia: Patient found to be 
hyponatremic with Na 120 on routine labs at Endocrinologist's 
office. Reports drinking 150 ounces of water daily (~4.4 L), 
partially because she has issues with severe constipation and 
she feels that water helps with this. In the ED, labs were 
notable for Na 122, Urine Na <20, Cl <20, Osm 65, Specific 
gravity 1.002, consistent with primary polydipsia. Patient was 
asymptomatic throughout her hospital course. She was fluid 
restricted completely in the ED and admitted to the floor for 
further correction of her Na. Overnight, patient was noted to be 
overcorrected with 12 hour increase in Na from 122 to 134. After 
consultation from neprology, the patient received 500mL D5W and 
DDAVP 2mcg IV to slow her rate of correction and fluid 
restriction was modified to 2L/day. Physical evaluation, 
including neurological evaluation, were normal. On discharge, 
patient's Na was 137 and she was given instructions to continue 
fluid restriction of 2L/day and to follow up with endocrinology 
and her PCP. 

# Amenorrhea: Patient endorsed amenorrhea for ___ years, which is 
part of the reason she made an appointment to be evaluated by 
endocrinology. She denied galactorrhea, headaches, nausea, 
vomiting. Prolactin was found to be slightly low at 4.9 in the 
ED. An email was sent to patient's endocrinologist, Dr. 
___ will workup her amenorrhea as an outpatient.
 
# Constipation: We continued home Miralax during the stay.
 
# GERD: We continued home Prilosec during the stay.

TRANSITIONAL ISSUES:
- New medications: none
- Consider workup of dry mouth with question of Sjogren's vs 
sicca given history of positive ___
- Counsel patient to reduce PO fluids intake to ~2L per day
- Check repeat BMP at 1 week follow-up to ensure Na in goal 
range
- Patient needs outpatient workup of amenorrhea
- Contact: ___ (husband) ___
- Code: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Milk of Magnesia 15 mL PO QHS 

 
Discharge Medications:
1.  Milk of Magnesia 15 mL PO QHS  
2.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Polydipsia Hyponatremia

Secondary diagnosis:
- Amenorrhea
- Constipation
- Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was our pleasure caring for you while you were at ___.

Why did I come to the hospital?
- You had a low sodium (a salt found in your blood) value on a 
blood test ordered by your endocrinologist and were told to come 
to the emergency room.

What was done for me in the hospital?
- You were initially told to not drink any fluids, but your 
sodium was checked and found to be too high for the initial 12 
hour period.
- You were then allowed to drink fluids and were given fluids 
intravenously, and also received a medication which would help 
to prevent you from losing too much water in your urine.
- Your blood sodium levels were checked frequently and found to 
correct to normal range at an appropriate rate.

What should I do when I go home?
- Drink less than 2.5 liters of fluids per day.
- Keep your follow up appointments with your primary doctor and 
endocrinologist.
- Watch out for signs of low blood sodium and call your doctor 
if you experience any of them.

Thank you for allowing us to participate in your care while 
here!

Best regards,
Your ___ Care Team
 
Followup Instructions:
___